US06494923B2
Method for Preparing Ammonium 4-(3-methyl-5-oxo-4-thiophen-2-ylmethylene-4,5-dihydropyrazol-1-yl)benzenesulfonate (13a)
12.75 g of 5-hydroxy-3-methyl-1-(4-sulfophenyl)-1H-pyrazole, 6.2 g of thiophene-2-carboxaldehyde and 3.85 g of ammonium acetate in 100 mL of ethanol were heated at 80° C. After 4 hours, the mixture was cooled and filtered. The crude product was allowed to reflux in 250 mL of methanol for 30 min and the mixture was then cooled and filtered.

reactant | 5-hydroxy-3-methyl-1-(4-sulfophenyl)-1H-pyrazole | 12.75 g | OC1=CC(=NN1C1=CC=C(C=C1)S(=O)(=O)O)C | C10H10N2O4S
reactant | thiophene-2-carboxaldehyde | 6.2 g | S1C(=CC=C1)C=O | C5H4OS
reactant | ammonium acetate | 3.85 g | C(C)(=O)[O-].[NH4+]
solvent | ethanol | 100 mL | C(C)O | C2H6O
product | Ammonium 4-(3-methyl-5-oxo-4-thiophen-2-ylmethylene-4,5-dihydropyrazol-1-yl)benzenesulfonate | CC1=NN(C(C1=CC=1SC=CC1)=O)C1=CC=C(C=C1)S(=O)(=O)[O-].[NH4+] | InChI=1S/C15H12N2O4S2.H3N/c1-10-14(9-12-3-2-8-22-12)15(18)17(16-10)11-4-6-13(7-5-11)23(19,20)21;/h2-9H,1H3,(H,19,20,21);1H3
